US06995263B2
c] [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester
In analogy to the procedure described in example 8 d], [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid was esterified with methanol to give the title compound as yellow solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid | C1(CC1)C1=NC(=NC=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3N2O2
reactant | methanol | CO | CH4O
product | [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester | COC(CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C17H15F3N2O2
